US09290451B2
b) 6-((Tetrahydro-2H-pyran-4-yl)methoxy)-5-(trifluoromethyl)picolinic acid
6-Chloro-5-(trifluoromethyl)picolinic acid (330 mg, 1.46 mmol) and powdered potassium hydroxide (328 mg, 5.85 mmol) were dissolved in DMSO (9 mL). The solution was stirred for 15 min. at ambient temperature. (Tetrahydro-2H-pyran-4-yl)methanol (170 mg, 170 μL, 1.46 mmol; CAN 14774-37-9) was added. The mixture was stirred for 1 d at ambient temp., poured onto ice water/brine/1N HCl (75 mL) and extracted with EtOAc (2×150 mL). The combined extracts were washed with ice water/brine (75 mL), dried over Na2SO4. The solvent was removed under reduced pressure to give the title compound as a grey solid (385 mg, 86%) which was used in the next step without further purification. MS: 304.0 [M−H]−.

reactant | 6-Chloro-5-(trifluoromethyl)picolinic acid | 1.46 mmol, 330 mg | ClC1=C(C=CC(=N1)C(=O)O)C(F)(F)F | C7H3ClF3NO2
reactant | potassium hydroxide | 5.85 mmol, 328 mg | [OH-].[K+]
reactant | (Tetrahydro-2H-pyran-4-yl)methanol | 1.46 mmol, 170 μL, 170 mg | O1CCC(CC1)CO | C6H12O2
solvent | DMSO | 9 mL | CS(=O)C | C2H6OS
product | 6-((Tetrahydro-2H-pyran-4-yl)methoxy)-5-(trifluoromethyl)picolinic acid | 385 mg, 86% | O1CCC(CC1)COC1=C(C=CC(=N1)C(=O)O)C(F)(F)F | C13H14F3NO4
